US08685980B2
Following General Procedure E, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.230 mmol) and (S)-(+) glycidol (51 mg, 0.691 mmol) gave 7-cyclopentyl-2-{5-[4-((S)-2,3-dihydroxy-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (60 mg, 50%). MS (ESI) m/z 509.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.230 mmol, 100 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | (S)-(+) glycidol | 0.691 mmol, 51 mg | C1[C@@H](O1)CO | C3H6O2
product | 7-cyclopentyl-2-{5-[4-((S)-2,3-dihydroxy-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 60 mg, 50% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C[C@@H](CO)O)N1C1CCCC1)C | C26H36N8O3
